US04299769
1-[3-(Benzoylthio)-3-(benzo[b]thien-3-ylcarbonyl)propionyl]-L-proline
As for Example 21, 1-[3-bromo-3-(benzo[b]thien-3-ylcarbonyl)propionyl]-L-proline (0.01 mole) in 25 ml. of acetonitrile is added to a mixture of 0.01 mole of sodium methoxide and 0.015 mole of thiobenzoic acid in 25 ml. of acetonitrile. The mixture is stirred at room temperature for 16 hours, one ml. of acetic acid is added and the solvent is evaporated in vacuo. The residue is partitioned between dichloromethane and water containing acetic acid. The organic layer is separated, washed with water and dried over magnesium sulfate. The solvent is removed in vacuo to give the product of the Example as a yellow glass.

reactant | 1-[3-bromo-3-(benzo[b]thien-3-ylcarbonyl)propionyl]-L-proline | 0.01 mole | BrC(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)C=1C2=C(SC1)C=CC=C2 | C17H16BrNO4S
reactant | acetonitrile | C(C)#N | C2H3N
reactant | sodium methoxide | 0.01 mole | C[O-].[Na+]
reactant | thiobenzoic acid | 0.015 mole | C(C1=CC=CC=C1)(=S)O | C7H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-(Benzoylthio)-3-(benzo[b]thien-3-ylcarbonyl)propionyl]-L-proline | C(C1=CC=CC=C1)(=O)SC(CC(=O)N1[C@H](C(=O)O)CCC1)C(=O)C=1C2=C(SC1)C=CC=C2 | C24H21NO5S2
